US08791134B2
4-Nitrosotetrahydro-2H-pyran-4-yl 2,2,2-trichloroacetate was prepared from tetrahydro-pyran-4-one oxime, lead tetraacetate and trichloroacetic acid using conditions of General Method 3. 1H NMR (360 MHz, chloroform-d) δ 3.99-4.19 (2H, m), 3.61-3.94 (2H, m), 2.30-2.61 (2H, m), 1.58-2.03 (2H, m).

reactant | tetrahydro-pyran-4-one oxime | O1CCC(CC1)=NO | C5H9NO2
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | trichloroacetic acid | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
product | 4-Nitrosotetrahydro-2H-pyran-4-yl 2,2,2-trichloroacetate | ClC(C(=O)OC1(CCOCC1)N=O)(Cl)Cl | C7H8Cl3NO4
